US05231198
In a 500 ml three neck round bottom flask equipped with a magnetic stirrer, thermometer, condenser, addition funnel and nitrogen inlet, is placed 30 ml of dimethylsulfoxide. Potassium hydroxide (20 g, 0.36 mol.) is added to this followed by the dropwise addition of 2-bromo-4-chlorophenol (50 g, 0.24 mol) in 25 ml of dimethylsulfoxide. This solution is stirred for half an hour, then benzylbromide (41 g, 0.24 mol) is added dropwise, and the reaction stirred for another 3 hours. The reaction is then poured into 150 ml of ice water and extracted with 100 ml of toluene. The toluene phase is washed with 50 ml of 1N sodium hydroxide followed by 75 ml of water, dried with magnesium sulfate and evaporated under reduced pressure to yield 65 g of 2-bromo-4-chlorophenyl benzylether.

reactant | Potassium hydroxide | 0.36 mol, 20 g | [OH-].[K+]
reactant | 2-bromo-4-chlorophenol | 0.24 mol, 50 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | benzylbromide | 0.24 mol, 41 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-bromo-4-chlorophenyl benzylether | 65 g | BrC1=C(C=CC(=C1)Cl)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Br | C26H18Br2Cl2O
